US05491159
[2-(3,5-di-tert-butyl-4-hydroxyphenyl)-oxazol-4-yl]-acetic acid methyl ester
A mixture of 3,5-di-tert-butyl-4-hydroxybenzamide (5.0 g, 20.0 mmol), methyl 4-chloroacetoacetate (3.01 g, 20.0 mmol), dioxane (30 mL), and toluene (300 mL) was refluxed for 5 days, with continuous water removal (Dean Stark trap). The volatiles were removed in vacuo and the residue waspurified by flash chromatography on silica gel (eluting solvent: hexane/EtOAc 3/1) to give a brown viscous oil (3.2 g). Crystallization of the brown oil from ethyl ether (after cooling to 0° C.) gave a white solid (2.6 g, 38% yield), m.p. 126°-128° C.

reactant | 3,5-di-tert-butyl-4-hydroxybenzamide | 20.0 mmol, 5.0 g | C(C)(C)(C)C=1C=C(C(=O)N)C=C(C1O)C(C)(C)C | C15H23NO2
reactant | methyl 4-chloroacetoacetate | 20.0 mmol, 3.01 g | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | dioxane | 30 mL | O1CCOCC1 | C4H8O2
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | [2-(3,5-di-tert-butyl-4-hydroxyphenyl)-oxazol-4-yl]-acetic acid methyl ester | 3.2 g | COC(CC=1N=C(OC1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C20H27NO4
